US08709615B2
Synthesis of 2-(dibenzo[b,d]furan-4-yl)-5-isopropylpyridine
2-(Dibenzo[b,d]furan-4-yl)-5-(prop-1-en-2-yl)pyridine (7.5 g, 26.3 mmol) was added to a hydrogenator bottle containing EtOH (150 mL). The reaction mixture was degassed by bubbling nitrogen for 10 min. Pd/C (0.28 g, 2.63 mmol) and Pt/C (0.26 g, 1.3 mmol) were added to the reaction mixture. The reaction mixture was placed on the Parr hydrogenator for 1 h. The reaction mixture was filtered on a tightly packed Celite® bed and washed with dichloromethane to yield 7.5 g (99%) of the desired product. The product was confirmed by GC/MS and NMR.

reactant | 2-(Dibenzo[b,d]furan-4-yl)-5-(prop-1-en-2-yl)pyridine | 26.3 mmol, 7.5 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=NC=C(C=C3)C(=C)C | C20H15NO
catalyst | Pd/C | 2.63 mmol, 0.28 g | [Pd] | Pd
catalyst | Pt/C | 1.3 mmol, 0.26 g | [Pt] | Pt
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-(dibenzo[b,d]furan-4-yl)-5-isopropylpyridine | 7.5 g, 99% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=NC=C(C=C3)C(C)C | C20H17NO
